US04973588
In 50 ml of pyridine was dissolved 5.0 g (28.4 millimoles) of 2-mercapto-4-phenylimidazole, and 3.13 ml (34.1 millimoles) of N,N-dimethylcarbamoyl chloride was added to the solution and the mixture was heated at 70° C. for 3 hours. The reaction mixture was concentrated under reduced pressure, and 200 ml of water and 200 ml of chloroform were added to the concentrate to effect extraction. The chloroform layer was concentrated and the concentrate was recrystallized from ethanol to obtain 2.4 g (yield=34%) of intended 2-(N,N-dimethylcarbamoylthio)-4-phenylimidazole (compound No. 21) in the form of a colorless crystal.

reactant | 2-mercapto-4-phenylimidazole | 28.4 millimoles, 5.0 g | SC=1NC=C(N1)C1=CC=CC=C1 | C9H8N2S
reactant | N,N-dimethylcarbamoyl chloride | 34.1 millimoles, 3.13 ml | CN(C(=O)Cl)C | C3H6ClNO
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 2-(N,N-dimethylcarbamoylthio)-4-phenylimidazole | 2.4 g, yield=34% | CN(C(=O)SC=1NC=C(N1)C1=CC=CC=C1)C | C12H13N3OS
